US06723720B2
1.89 g of methylglyoxal (40% in water) are added to 2.71 g of N′-[(2,6-difluorophenyl)-iminomethyl]-hydrazinecarboxylic acid tert-butyl ester in 30 ml of ethanol and stirring is carried out at room temperature for 16 h. The reaction mixture is then concentrated, and the residue is taken up in 20 ml of formic acid and stirring is continued at room temperature for 5 h. The reaction mixture is concentrated by evaporation; the residue is again dissolved in 20 ml of ethanol, boiled under reflux for 2 h, then concentrated and purified by means of column chromatography. In this way 3-(2,6-difluorophenyl)-6-methyl-[1,2,4]triazine having a melting point of 90-93° C. is obtained.

reactant | methylglyoxal | 1.89 g | CC(=O)C=O | C3H4O2
reactant | N′-[(2,6-difluorophenyl)-iminomethyl]-hydrazinecarboxylic acid tert-butyl ester | 2.71 g | C(C)(C)(C)OC(=O)NNC(=N)C1=C(C=CC=C1F)F | C12H15F2N3O2
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(2,6-difluorophenyl)-6-methyl-[1,2,4]triazine | FC1=C(C(=CC=C1)F)C=1N=NC(=CN1)C | C10H7F2N3
